US07018988B2
(2S,4EZ)-N2-(2-hydroxyethyl)-4-(methoxyimino)-N1-pentyl-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 1-isocyanatopentane, and 2-aminoethanol the title compound was obtained in 100% purity by LC/MS. MS(ESI+): m/z=315.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 1-isocyanatopentane | N(=C=O)CCCCC | C6H11NO
reactant | 2-aminoethanol | NCCO | C2H7NO
product | (2S,4EZ)-N2-(2-hydroxyethyl)-4-(methoxyimino)-N1-pentyl-1,2-pyrrolidinedicarboxamide | OCCNC(=O)[C@H]1N(CC(C1)=NOC)C(=O)NCCCCC | C14H26N4O4
